Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
___ Mitral valve repair & annuloplasty (28 mm ___ Future)
___ Cardiac Catheterization, coronary angiogram

 
History of Present Illness:
This ___ year old female with a known murmur is followed by 
serial echocardiograms. She presented to an outside hospital in 
heart failure  requiring admission. She was diuresed and 
discharged.  She was referred for surgical evaluation of her 
mitral valve and was admitted today post cardiac catheterization 
for Heparin bridge with a plan for surgery the next day.
 
Past Medical History:
Mitral Regurgitation
h/o Acute diastolic heart failure 
chronic Atrial fibrillation 
h/o Deep vein thrombosis 
Osteoarthritis of left knee with dislocated joint 
Spinal stenosis
Hypertension 
Left hip bursitis 
Renal calculi 
s/p Tonsillectomy
s/p repair left wrist fracture 
s/p Total abdominal hysterectomy 
s/p Bilateral cataract surgery
 
Social History:
___
Family History:
father ?MI, grandfather deceased from MI at ___
 
Physical Exam:
admission:

Pulse:76 reg   B/P  Right: 150/70   Left: 160/68
Height:5'3"     Weight:68 kg

General: No acute distress 
Skin: Dry [x] intact [x] rigth groin cath site
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] decreased ROM; no JVD
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur- ___ SEM radiates 
throughout
precordium into carotids
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x] no palpable masses 
Extremities: Warm [x], well-perfused [x]  Edema- none 
Varicosities: bilateral varicosities with multiple spider veins
Neuro: Grossly intact; MAE ___ strengths; nonfocal exam
Pulses:
Femoral      Right: cath site    Left:2+
DP           Right: 1+  Left: 1+
___           Right: 1+  Left: 1+
Radial       Right: 2+  Left: 2+

Carotid Bruit :  right bruit vs murmur Left bruit vs murmur
 
Pertinent Results:
___ Echo: No spontaneous echo contrast is seen in the left 
atrial appendage. Left ventricular wall thicknesses are normal. 
The left ventricular cavity size is top normal/borderline 
dilated. Regional left ventricular wall motion is normal. 
Overall left ventricular systolic function is normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion. Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are moderately thickened and 
myxomatous. There is flail of both anterior and posterior 
leaflets with evidence of torn chordae on both leaflets 
prolapsing into the left atrium. Severe (4+) mitral 
regurgitation is seen. There is no pericardial effusion. 
POSTBYPASS:
The patient is on infusions of epinephrine (0.02 mcg/kg/min) and 
phenylephrine (<1 mcg/kg/min). The repaired mitral valve is not 
well visualized from all angles but the leaflets are no longer 
flail and coapt better than before. There is now trace mitral 
regurgitation without evidence of mitral stenosis (gradient 3 
mmHg). Mild aortic insufficiency remains. Left ventricular 
function remains normal. Normal aortic contours.
___ 07:00AM BLOOD WBC-6.0 RBC-4.54 Hgb-13.9 Hct-39.8 MCV-88 
MCH-30.5 MCHC-34.8 RDW-14.3 Plt ___
___ 04:59AM BLOOD WBC-8.8 RBC-3.15* Hgb-9.7* Hct-28.0* 
MCV-89 MCH-30.8 MCHC-34.7 RDW-14.9 Plt ___
___ 04:59AM BLOOD ___
___ 02:47PM BLOOD ___
___ 04:50AM BLOOD ___
___ 05:20AM BLOOD ___
___ 04:59AM BLOOD Glucose-95 UreaN-18 Creat-0.7 Na-131* 
K-4.1 Cl-97 HCO3-26 AnGap-12
___ 07:00AM BLOOD Glucose-102* UreaN-12 Creat-0.7 Na-138 
K-4.6 Cl-103 HCO3-25 AnGap-15
 
Brief Hospital Course:
Ms. ___ was admitted ___ cardiac catheterization for Heparin 
bridge with plan for surgery on  ___. The cathetreization 
revealed nonobstructive disease and carotid ultrasound was 
likewise insignificant. She underwent the usual pre-operative 
work-up and on ___ was brought to the Operating Room where she 
underwent mitral valve repair. Please see operative report for 
surgical details. 

Following surgery she was transferred to the CVICU for invasive 
monitoring in stable condition. Within 24 hours she was weaned 
from sedation, awoke neurologically intact and extubated. 
Diuresis towards her peroperative weight was instituted and beta 
blockade resumed. She was transferred to the floor.

She remained in atrial fibrillation and temporary pacing wires 
and CTs were removed per protocols.  Coumadin was resumed witha 
target INR of ___.  She was seen by the Physical therapy 
service for mobility and strength and ready for discharge on POD 
5.
Arrangements were made for family to stay with her around the 
clock and her anticoagulation to be managed as preoperatively 
by>>>>> 

 
Medications on Admission:
COUMADIN 2 mg ___ 2.5 mg ___ - last dose ___ at 6pm
fosinopril 20/HCTZ 12.5 mg daily
lasix 40 mg daily
magnesium chloride 128 mg daily
toprol XL 50 mg daily
KCl 40 mEq daily
multivitamin daily
glucosamine 200mg/300mg complex daily
brewer's yeast 1000 mg daily
clindamycin prn dental work
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
2. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO once a 
day for 2 weeks.
Disp:*14 Tablet(s)* Refills:*0*
3. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain/temp.  
4. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain for 4 weeks.
Disp:*50 Tablet(s)* Refills:*0*
5. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
6. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
7. Amiodarone 200 mg Tablet Sig: as ordered Tablet PO BID (2 
times a day): two tablets twice daily for two weeks then one 
tablet twice daily for two weeks then one tablet daily.
Disp:*100 Tablet(s)* Refills:*2*
8. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).
Disp:*90 Tablet(s)* Refills:*2*
9. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day for 10 
days.
Disp:*10 Tablet(s)* Refills:*0*
10. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO once a day for 10 
days.
Disp:*10 Tab Sust.Rel. Particle/Crystal(s)* Refills:*0*
11. Coumadin 1 mg Tablet Sig: as directed Tablet PO once a day: 
2mg  Two tablets) ___, 2.5mg(2.5 tablets) ___ unless 
otherwise instructed.
Disp:*100 Tablet(s)* Refills:*2*
12. Outpatient Lab Work
___ ___ then as directed. results to Dr. ___ 
___ or fax at ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mitral Regurgitation 
s/p Mitral valve repair
chronic diastolic heart failure
chronic Atrial fibrillation 
h/o deep vein thrombosis 
Osteoarthritis left knee with dislocated joint 
Spinal stenosis
Hypertension 
Left hip bursitis 
Renal calculi 
s/p Tonsillectomy
s/p repair left wrist fracture 
s/p Total abdominal hysterectomy 
s/p Bilateral cataract surgery

 
Discharge Condition:
Alert and oriented x3, nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesics

Incisions: 
Sternal - healing well, no erythema or drainage 
 
Edema none

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month until follow up with 
surgeon
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___